US06323176B1
3,4,6-Tri-O-Acetyl-2-Azido-2-Deoxy-α-D-Glucopyranosyl Bromide
A 1 L flask containing 400 mL of acetonitrile was charged with sodium azide (7.75 g, 119.2 mmol) and ceric ammonium nitrate (120.7 g, 219.4 mmol). The resulting suspension was cooled to −30° C. and a solution of tri-O-acetyl-D-glucal (20.75 g, 76.22 mmol) in 100 mL acetonitrile was added to it dropwise. The reaction mixture was stirred at −30° C. for 20 hours and then warmed to room temperature, taken up in 800 mL of diethyl ether and washed with water (3×250 mL). The organics were dried over magnesium sulfate, filtered, and the solvent removed in vacuo to yield an oil. This oil was placed in a 1 L flask containing 400 mL of acetonitrile and lithium bromide (33.53 g, 386.1 mmol) and stirred at room temperature for at least 4 hours. The solvent was removed in vacuo and the resulting residue was taken up in 400 mL of dichloromethane. The organic layer was washed with water (2×250 mL), dried over magnesium sulfate and filtered. The solvent was removed in vacuo to yield the title compound as a gold oil which was used directly as in Example 1.

reactant | sodium azide | 119.2 mmol, 7.75 g | [N-]=[N+]=[N-].[Na+]
reactant | tri-O-acetyl-D-glucal | 76.22 mmol, 20.75 g | C(C)(=O)O[C@@H]1C=CO[C@@H]([C@H]1OC(C)=O)COC(C)=O | C12H16O7
reactant | lithium bromide | 386.1 mmol, 33.53 g | [Br-].[Li+]
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | diethyl ether | 800 mL | C(C)OCC | C4H10O
solvent | acetonitrile | 400 mL | C(C)#N | C2H3N
solvent | acetonitrile | 400 mL | C(C)#N | C2H3N
product | 3,4,6-Tri-O-Acetyl-2-Azido-2-Deoxy-α-D-Glucopyranosyl Bromide | C(C)(=O)O[C@@H]1[C@H]([C@H](O[C@@H]([C@H]1OC(C)=O)COC(C)=O)Br)N=[N+]=[N-] | C12H16BrN3O7
